US09126969B2
A solution of 4 g of piperidine-1-carboxylic acid [3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]amide in solution in 50 mL of a 4N solution of hydrochloric acid in dioxane is stirred at 22° C. for 4 hours. In order for the reaction to be complete, the reaction medium is concentrated and again dissolved in 50 mL of a 4N solution of hydrochloric acid in dioxane and left stirring at ambient temperature for 18 hours. The suspension is filtered over sintered glass and the solid is washed with dioxane. After spin-filter-drying, the solid is triturated in isopropyl ether. Since the solid obtained is hygroscopic, it is taken up in methanol and the solution is concentrated under vacuum. The oil obtained is purified by flash chromatography on an Intelliflash apparatus on an analogix RS-120 cartridge. The elution is carried out with dichloromethane then ethyl acetate at 100%, and then with a 95/5 mixture of dichloromethane/methanol. After concentration of the fractions containing the product, the latter is triturated in isopropyl ether and the solid obtained is filtered and dried under vacuum until the weight is constant. 3.2 g of piperidine-1-carboxylic acid [3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]amide are obtained in hydrochloride form. 1H NMR (300 MHz, (CD3)2SO, δ in ppm): 1.48-1.67 (m: 6H); 3.03 (m: 4H); 3.48 (m: 4H); 3.78 (m: 4H); 7.18 (d, J=8 Hz: 1H); 7.46 (d, J=12 Hz: 1H); 8.01 (s: 1H); 9.53 (broad s: 1H); 12.50 (very broad s: 1H).

reactant | piperidine-1-carboxylic acid [3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]amide | 4 g | FC1=CC2=C(NC(=N2)C2=NN(C=C2NC(=O)N2CCCCC2)C2OCCCC2)C=C1N1CCOCC1 | C25H32FN7O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | piperidine-1-carboxylic acid [3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]amide | 3.2 g | FC1=CC2=C(NC(=N2)C2=NNC=C2NC(=O)N2CCCCC2)C=C1N1CCOCC1 | C20H24FN7O2
